Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Pt presents eval for 1 day hx of abdominal pain, states that she 
worked yesterday and upon getting home felt malaise, mild 
abdominal pain that she could not localize. She went to sleep 
overnight but kept having pain, cannot identify any particular 
aggravating or alleviating factors. Pt initially had diffuse 
ache that became more sharp and localized to RLQ. Presented for 
eval
after pain did not subside. Experienced some nausea, no emesis; 
denies fevers, chills, diarrhea, BRBPR, constipation, dysuria. 
Underwent CT A/P that shows acute appendicitis with surrounding 
phlegmon. ACS consulted for further management. Pt in no 
distress at time of interview.

 
Past Medical History:
PMH:
GERD/DYSPHAGIA/LPR                                              
ABDOMINAL PAIN                                                  
ANEMIA                                                          
DIVERTICULOSIS                                                  
IBS-C                                                           
LACTOSE INTOLERANCE                                             
LIVER LESION                                                    
RAPID GASTRIC EMPTYING                                          
LOW BACK PAIN                                                   
DEPRESSION                                                      
ANXIETY                                                         
H/O HYPERCHOLESTEROLEMIA     

PSH:
Tonsillectomy

 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
Admission Physical Exam:

Vitals: 99.3 95 131/78 18 98% RA  
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: No respiratory distress
ABD: Soft, nondistended, TTP in RLQ, positive Rovsing, neg
obtruator or psoas
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: T: 98.1, BP: 112/68, HR: 85, RR: 18, O2: 97% RA
General: A+Ox3, NAD
CV: RRR, no m/r/g
PULM: CTA b/l
ABD: soft, non-distended, mildly tender in RLQ to palpation
Extremities: warm, well-perfused, no edema b/l

 
Pertinent Results:
IMAGING:

___: CT Abdomen/Pelvis:
  
1. Acute appendicitis complicated by microperforation with 
surrounding 
phlegmon. 
2. Fibroid uterus. 

Labs:

___ 09:20PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:20PM URINE  RBC-2 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 09:20PM URINE  MUCOUS-RARE
___ 06:05PM   LACTATE-0.9
___ 05:54PM   GLUCOSE-92 UREA N-8 CREAT-0.6 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-25 ANION GAP-17
___ 05:54PM   WBC-11.5*# RBC-3.62* HGB-11.4 HCT-34.5 MCV-95 
MCH-31.5 MCHC-33.0 RDW-11.9 RDWSD-41.6
___ 05:54PM   NEUTS-74.1* ___ MONOS-4.9* EOS-0.9* 
BASOS-0.3 IM ___ AbsNeut-8.55* AbsLymp-2.22 AbsMono-0.57 
AbsEos-0.10 AbsBaso-0.03
___ 05:54PM   PLT COUNT-212
 
Brief Hospital Course:
Ms. ___ is a ___ y/o F who presented to ___ on ___ with 
abdominal pain.  CT abdomen/pelvis revealed acute appendicitis 
with surrounding phlegmon. The patient had leukocytosis with WBC 
11.5.  The patient was made NPO and started on IV ciprofloxacin 
and flagyl for conservative management.  The patient was 
admitted to the Acute Care Surgery service and transferred to 
the surgical floor. 

On HD2, the patient was less tender in the RLQ, WBC was 10.7 and 
she was afebrile.  The patient was started on a regular diet 
which was well-tolerated.  On HD3, IV antibiotics were 
transitioned to oral ciprofloxacin and flagyl which were 
well-tolerated.  Intake and output were monitored. 

The patient was alert and oriented throughout hospitalization; 
pain was managed with acetaminophen and oxycodone. The patient 
remained stable from a cardiovascular and pulmonary standpoint; 
vital signs were routinely monitored. The patient ambulated 
frequently. The patient's blood counts were closely watched for 
signs of bleeding, of which there were none. The patient 
received subcutaneous heparin and ___ dyne boots were used 
during this stay and was encouraged to get up and ambulate as 
early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
___ - Prescription
ATORVASTATIN [LIPITOR] - Lipitor 20 mg tablet. 1 Tablet(s) by
mouth once a day -  (Prescribed by Other Provider)
CLONIDINE HCL - clonidine HCl 0.1 mg tablet. 1 tab tablet(s) by
mouth once a day -  (Prescribed by Other Provider)
MIRTAZAPINE [REMERON] - Remeron 30 mg tablet. 1 tablet(s) by
mouth HS -  (Prescribed by Other Provider)
OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. 1
capsule(s) by mouth bid 30 min ac
 
Medications - OTC
CALCIUM - calcium 500 mg tablet. 2 Tablet(s) by mouth once a day
-  (Prescribed by Other Provider)
IBUPROFEN [ADVIL] - Advil 200 mg tablet. 3 Tablet(s) by mouth
three times a day as needed for pain -  (OTC)
MULTIVITAMIN - multivitamin tablet. 1 Tablet(s) by mouth once a
day -  (OTC)

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*23 Tablet Refills:*0 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
4.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*34 Tablet Refills:*0 
5.  Atorvastatin 40 mg PO QPM  
6.  CloNIDine 0.1 mg PO DAILY  
7.  Mirtazapine 30 mg PO QHS:PRN insomnia  
8.  Omeprazole 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Appendicitis with phlegmon

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.  You were admitted to the hospital with acute 
inflammation of your appendix. You were treated conservatively 
with antibiotics and initially restricted from eating.  You are 
now tolerating a regular diet and your pain is better 
controlled.  You are now ready to be discharged home to continue 
your recovery with a course of oral antibiotics. 

Please follow the discharge instructions below to ensure a safe 
recovery while at home:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___